US08106070B2
t-Butyl 2-iodobenzoate
2-Iodobenzoic acid (10.06 g, 40.56 mmol) was converted to 2-iodobenzoic chloride by reacting with oxalyl chloride (5.34 mL, 60.84 mmol) in methylene chloride (100 mL), initiated by a drop DMF. The solvent and excess oxalyl chloride were removed by rotary evaporation. To a 250 mL one neck round bottom flask was charged t-butanol with THF (50 mL) and then cooled to −78 C. A solution of n-butyl lithium in hexanes (2.5 M, 24.3 mL) was added, followed by the solution of 2-iodobenzoic chloride in THF (50 mL). The resulting reaction mixture was stirred at −78 C for 20 min and then at rt for 2 hours. The reaction was quenched by water and worked up. The product was purified by flash chromatography to afford the title compound as a white solid.

reactant | 2-Iodobenzoic acid | 40.56 mmol, 10.06 g | IC1=C(C(=O)O)C=CC=C1 | C7H5IO2
reactant | 2-iodobenzoic chloride | IC1=C(C(=O)Cl)C=CC=C1 | C7H4ClIO
reactant | oxalyl chloride | 60.84 mmol, 5.34 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | CN(C)C=O | C3H7NO
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | t-Butyl 2-iodobenzoate | IC1=C(C(=O)OC(C)(C)C)C=CC=C1 | C11H13IO2
